US06034275
The corresponding Grignard compound is prepared from 16 g of 4-bromotoluene and 2.23 g of magnesium in 150 ml of THF. This is added dropwise at room temperature to a solution of 10 g of 2-bromothiophene, 3 g of palladium acetate and 1.27 g of triphenylphosphine in 150 ml of THF. The mixture is boiled at reflux under argon for 3.5 hrs., then poured on to ice-water and extracted with ethyl acetate. Chromatography on silica gel (toluene) gives 9.06 g of 2-p-tolyl-thiophene.

reactant | 4-bromotoluene | 16 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | magnesium | 2.23 g | [Mg] | Mg
reactant | 2-bromothiophene | 10 g | BrC=1SC=CC1 | C4H3BrS
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | palladium acetate | 3 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 1.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-p-tolyl-thiophene | 9.06 g | C1(=CC=C(C=C1)C=1SC=CC1)C | C11H10S
